US04540703
To ethyl acetate (400 ml) is added N-methylcyclohexylamine (26 ml), and to the mixture are added dropwise with stirring 4-chlorobutyryl chloride (25 ml) and triethylamine (33.5 ml) over a period of 20 minutes with keeping the inner temperature at 10° to 20° C. by ice-cooling. The mixture is further stirred at room temperature for one hour. After the reaction, water is added to the reaction mixture. The organic layer is separated and washed with water an aqueious saturated potassium carbonate solution, 10% aqueous hydrochloric acid and water in order, and then dried over anhydrous sodium sulfate. After filtering off sodium sulfate, the mother liquor is concentrated and distilled under reduced pressure to give N-methyl-N-cyclohexyl-4-chlorobutyramide (41.5 g), b.p. 133°-136° C./2 mm Hg.

reactant | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
reactant | N-methylcyclohexylamine | 26 ml | CNC1CCCCC1 | C7H15N
reactant | 4-chlorobutyryl chloride | 25 ml | ClCCCC(=O)Cl | C4H6Cl2O
reactant | triethylamine | 33.5 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | N-methyl-N-cyclohexyl-4-chlorobutyramide | 41.5 g | CN(C(CCCCl)=O)C1CCCCC1 | C11H20ClNO
